US05302585
(R)-2-Amino-6-chloro-9-[2-[(diisopropylphosphono)methoxy]propyl]purine
(R)-2-O-[(Diisopropylphosphono)methyl]-1-O-methanesulfonyl-1,2-propanediol (2.0 g, 6.02 mmol) was mixed with 2-amino-6-chloropurine (1 23 g, 7.22 mmol) and cesium carbonate (3.92 g, 12.0 mmol) in 40 mL of acetonitrile. The mixture was gently refluxed under nitrogen atmosphere for 24 hours, then allowed to cool to room temperature, and filtered. The solvent was removed under reduced pressure The residue was purified by flash chromatography on silica gel twice (first time, methylene chloride:acetone=3:1 to 0:1; second time, methylene chloride:methanol=15:1 to 10:1). The title compound (0.85 g, 35% yield) was isolated as a glassy material which was crystallized from ethyl acetate-diethyl ether: mp 133°-135° C.

reactant | (R)-2-O-[(Diisopropylphosphono)methyl]-1-O-methanesulfonyl-1,2-propanediol | 6.02 mmol, 2.0 g | C(C)(C)OP(=O)(OC(C)C)CO[C@@H](COS(=O)(=O)C)C | C11H25O7PS
reactant | 2-amino-6-chloropurine | 7.22 mmol, 23 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | cesium carbonate | 12.0 mmol, 3.92 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | (R)-2-Amino-6-chloro-9-[2-[(diisopropylphosphono)methoxy]propyl]purine | 0.85 g, 35% yield | NC1=NC(=C2N=CN(C2=N1)C[C@@H](C)OCP(=O)(OC(C)C)OC(C)C)Cl | C15H25ClN5O4P
